US05508288
Pyrimidine-5-carboxylic acid (D4)
n-Butyllithium (1.6M in hexane, 6.9 ml, 11 mmol) was added to dry THF (10 ml) and the solution was cooled to -100° C. A solution of 5-bromopyrimidine (1.59 g, 10 mmol) in dry THF (50 ml) was added slowly. After 15 min at -80° to -100° C., the mixture was added dropwise onto solid carbon dioxide in dry THF. After warming to room temperature, the mixture was made slightly acidic with dilute sulphuric acid. The solid was filtered off and extracted with ethanol. The extract was filtered and evaporated and the residue was re-extracted with methanol. Evaporation of solvent gave the title compound (1.48 g, 100%).

reactant | n-Butyllithium | 11 mmol, 1.6M, 6.9 ml | C(CCC)[Li]
reactant | 5-bromopyrimidine | 10 mmol, 1.59 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Pyrimidine-5-carboxylic acid | 1.48 g, 100% | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
